US04207234
A mixture of 1-(1-carboxy-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone (1.50 g), triethylamine (0.51 g), diphenylphosphoryl azide (1.4 g) and tert-butyl alcohol (30 ml) was heated gradually, and refluxed under heating for 5 hours. After the reaction, the tert-butyl alcohol was removed by distillation from the reaction mixture under reduced pressure to give a residue, which was subjected to column chromatography on silica gel. Elution was carried out with a mixture of benzene and ethyl acetate, and the fractions containing a desired compound were collected. The eluate was evaporated to dryness under reduced pressure to give 1-(1-tert-butoxycarbonylamino-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone (1.1 g), mp 64° to 66° C.

reactant | 1-(1-carboxy-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone | 1.50 g | C(=O)(O)C(C(C)C)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C16H20N2O4
reactant | triethylamine | 0.51 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.4 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butyl alcohol | 30 ml | C(C)(C)(C)O | C4H10O
product | 1-(1-tert-butoxycarbonylamino-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone | 1.1 g | C(C)(C)(C)OC(=O)NC(C(C)C)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C20H29N3O4
